US09306174B2
9-Phenyl-9H,9′H-[3,3′]bicarbazolyl (12.9 g), 4-bromo-iodobenzene (13.4 g), a copper powder (0.64 g), potassium carbonate (8.34 g), sodium bisulfite (0.49 g), and orthodichlorobenzene (50 ml) were added to a nitrogen-substituted reaction vessel, heated, and stirred at 170° C. for 19.5 hours. The mixture was cooled to 90° C., and dissolved after adding toluene (200 ml). After removing the insolubles by filtration, the filtrate was concentrated under reduced pressure, and crystallized from methanol (50 ml) to obtain a white powder of 9-(4-bromophenyl)-9′-phenyl-9H,9′H-[3,3′]bicarbazolyl (17.30 g; yield 97%).

reactant | 9-Phenyl-9H,9′H-[3,3′]bicarbazolyl | 12.9 g | C1(=CC=CC=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2NC3=CC=CC=C3C2C1 | C30H20N2
reactant | 4-bromo-iodobenzene | 13.4 g | BrC1=CC=C(C=C1)I | C6H4BrI
reactant | potassium carbonate | 8.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bisulfite | 0.49 g | S([O-])(O)=O.[Na+]
catalyst | copper | 0.64 g | [Cu] | Cu
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | orthodichlorobenzene | 50 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 9-(4-bromophenyl)-9′-phenyl-9H,9′H-[3,3′]bicarbazolyl | 17.30 g, yield 97% | BrC1=CC=C(C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)C=1C=CC=2N(C3=CC=CC=C3C2C1)C1=CC=CC=C1 | C36H23BrN2
